US08809539B2
To a solution of piperidine-1,3,3-tricarboxylic acid 1-tert-butyl 3-benzyl 3-(3,3-dimethyl-2-oxobutyl)ester (250 mg 0.54 mmol) in ethyl acetate (3 mL) is added a solution of hydrogen chloride in isopropanol (3 mL 5-6N). The mixture is stirred at room temperature for 3 h, then concentrated under reduced pressure. The solid is triturated in diisopropyl oxide to give piperidine-3,3-dicarboxylic acid 3-benzyl 3-(3,3-dimethyl-2-oxobutyl)ester, hydrochloride melting at 1500.

reactant | piperidine-1,3,3-tricarboxylic acid 1-tert-butyl 3-benzyl 3-(3,3-dimethyl-2-oxobutyl)ester | 0.54 mmol, 250 mg | CC(C(COC(=O)C1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)=O)(C)C | C25H35NO7
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | 5-6N, 3 mL | C(C)(C)O | C3H8O
product | piperidine-3,3-dicarboxylic acid 3-benzyl 3-(3,3-dimethyl-2-oxobutyl)ester, hydrochloride | Cl.CC(C(COC(=O)C1(CNCCC1)C(=O)OCC1=CC=CC=C1)=O)(C)C | InChI=1S/C20H27NO5.ClH/c1-19(2,3)16(22)13-26-18(24)20(10-7-11-21-14-20)17(23)25-12-15-8-5-4-6-9-15;/h4-6,8-9,21H,7,10-14H2,1-3H3;1H
